US07855297B2
By the reaction and treatment in the same manner as in Example 271 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.83 g) and 4-(chloromethyl)-2-methylthiazole (0.55 g) as starting materials, 5-benzyloxy-N-({1-[(2-methylthiazol-4-yl)methyl]pyrazol-4-yl}methyl)-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.73 g) was obtained. By the reaction and treatment of this compound in the same manner as in Example 139, 5-hydroxy-N-(6-isopropylpyridin-3-yl)-N-({1-[(2-methylthiazol-4-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.62 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.83 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | 4-(chloromethyl)-2-methylthiazole | 0.55 g | ClCC=1N=C(SC1)C | C5H6ClNS
product | 5-benzyloxy-N-({1-[(2-methylthiazol-4-yl)methyl]pyrazol-4-yl}methyl)-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.73 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)C(C)C)CC=1C=NN(C1)CC=1N=C(SC1)C | C35H37N5O2S
